*SPICE model for MSA3136
*Start Package model 
.SUBCKT MSA3136   OUT   IN   GND
* PI NETWORK TO SIMULATE TRANSMISSION LINE T1
C1T1    11      0       .061PF
LT1     11      12      .507NH
C2T1    12      0       .061PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T2
C1T2    14      0       .055PF
LT2     14      15      .098NH
C2T2    15      0       .055PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T3
 C1T3    13      0       .087PF
LT3     13      DIEOUT  .721NH
C2T3    DIEOUT  0       .087PF
* Bond wire inductance
LLB     12      DIEIN   .6NH
LLE     15      DIEGND  .3NH
* Contact inductance
LL1     IN      11      .05NH
LL2     GND     14      .01NH
LL3     OUT     13      .05NH
*Parasitic capacitances
CCEB    12      15      .01PF
CCEC    15      DIEOUT  .03PF
CCBC    12      DIEOUT  .02PF
* INSERT DIE MODEL
XA31DIE DIEOUT  DIEIN   DIEGND  MSA31
.ENDS
*end Package model
*
* Start die model
.SUBCKT MSA31   DIEOUT  DIEIN   DIEGND
RF      DIEIN   DIEOUT  1115  
RE      Q2E     DIEGND  0
RB      DIEIN   DIEGND  570   
RBIAS   Q1E     DIEGND  75    
CF      DIEIN   DIEOUT  0.06PF
CP1     Q1E     DIEOUT  0.05PF
CP2     Q2E     DIEOUT  0.25PF
XA31Q1  DIEOUT  DIEIN   Q1E     A31Q1
XA31Q2  DIEOUT  Q1E     Q2E     A31Q2
.ENDS
* Q1 distributed base model
.SUBCKT A31Q1   Q1C     Q1B     Q1E
RB1     Q1B     11     2.42  
RB2     11      12     7.45  
RB3     12      B1     6.25  
RE      E1      Q1E    0.55  
RC      C1      Q1C    5     
Q1      C1      B1     E1      QMSA    180
DCD1    Q1B     C1     DMOD    292
DCD2    11      C1     DMOD    292
DCD3    12      C1     DMOD    146
.ENDS
* Q2 distributed base model
.SUBCKT A31Q2   Q2C     Q2B     Q2E
RB1     Q2B     21     1.48  
RB2     21      22     4.47  
RB3     22      B2     3.75  
RE      E2      Q2E    0.33  
RC      C2      Q2C    5     
Q1      C2      B2     E2      QMSA    300
DCD1    Q2B     C2     DMOD    432
DCD2    21      C2     DMOD    486
DCD3    22      C2     DMOD    243
.ENDS
.MODEL  DMOD    D(IS=1E-25, CJO=2.45E-16, VJ=.76, M=.53, BV=45, IBV=1E-9)
.MODEL  QMSA    NPN (BF=90, BR=5, IS=1.65E-18, VA=20, TF=12PS,
+               CJE=1.8E-15, VJE=1.01, MJE=0.6, PTF=25, XTB=1.818,
+               VTF=6, ITF=3E-4, IKF=1.333E-4, XTF=4, NF=1.03, ISE=5E-15,
+               NE=2.5)
*end die model